US08314112B2
Step C: 5-Bromo-3,4-dihydro-2H-pyrano[2,3-c]pyridine
To a solution of 3-(3,5-dibromo-pyridin-4-yl)-propan-1-ol (1 eq, 4.41 mmol, 1.3 g) in DME (8 ml) is added copper (I) chloride (0.05 eq, 0.22 mmol, 22 mg), 2-aminopyridine (0.05 eq, 0.22 mmol, 21 mg), and NaOMe (5.4M in MeOH, 1.5 eq, 6.61 mmol, 1.22 ml). The resulting mixture is heated using microwave radiation at 70° C. for 20 h. Then sat. aqueous NaHCO3 solution is added, and the mixture is extracted with EtOAc. The organic layer is dried with MgSO4, filtered, and concentrated in vacuo. The crude product is purified using column chromatography (hexane/EtOAc) to give the title compound; [M+H]+=214/216.

reactant | 3-(3,5-dibromo-pyridin-4-yl)-propan-1-ol | 4.41 mmol, 1.3 g, 1 eq | BrC=1C=NC=C(C1CCCO)Br | C8H9Br2NO
reactant | 2-aminopyridine | 0.22 mmol, 21 mg, 0.05 eq | NC1=NC=CC=C1 | C5H6N2
reactant | NaOMe | 6.61 mmol, 5.4M, 1.22 ml, 1.5 eq | C[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DME | 8 ml | COCCOC | C4H10O2
catalyst | copper (I) chloride | 0.22 mmol, 22 mg, 0.05 eq | [Cu]Cl
product | 5-Bromo-3,4-dihydro-2H-pyrano[2,3-c]pyridine | BrC1=C2C(=CN=C1)OCCC2 | C8H8BrNO
